US03948949
A mixture of 10 g. of 2-(9-oxo-2-xanthenyl)-propanol, 12 g. of amalgamized zinc, 15 ml. of water, 40 ml. of concentrated hydrochloric acid, and 20 ml. of toluene is refluxed for 48 hours. At 8 hour intervals, another 10 ml. of concentrated hydrochloric acid is added. After filtration over active carbon and removal of the solvent mixture by evaporation, 2-(2-xanthenyl)-propanol is obtained, m.p. 86°-89°.

reactant | 2-(9-oxo-2-xanthenyl)-propanol | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)C(CO)C | C16H14O3
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc | [Zn] | Zn
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
